US03941782
B. 2-Methyl-4-morpholinobutyric acid hydrochloride
32.0 g. (0.15 mole) of ethyl 2-methyl-4-morpholinobutyrate was combined with 200 ml. of concentrated hydrochloric acid and 200 ml. of water and refluxed with stirring for 20 hours. The solution was concentrated on a rotary evaporator to give a viscous, colorless residue. This material was triturated with acetone, filtered and dried to give 30.6 g. (92%) of colorless crystals, m.p. 155°-157°C.

reactant | ethyl 2-methyl-4-morpholinobutyrate | 0.15 mole | CC(C(=O)OCC)CCN1CCOCC1 | C11H21NO3
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-Methyl-4-morpholinobutyric acid hydrochloride | Cl.CC(C(=O)O)CCN1CCOCC1 | InChI=1S/C9H17NO3.ClH/c1-8(9(11)12)2-3-10-4-6-13-7-5-10;/h8H,2-7H2,1H3,(H,11,12);1H
